US07964739B2
15E: trans-5-chloro-2,3,3a,12b-tetrahydro-2-benzhydryl-1H-dibenz[2, 3:6,7]-oxepino[4,5-c]pyrrole
A mixture of trans-2-(1-benzhydryl-4-(2-bromophenyl)pyrrolidin-3-yl)-4-chlorophenol (1.0 g, 1.93 mmol), cesium carbonate (1.26 g, 3.85 mmol, 2.0 eq.), N,N-dimethylglycine (79.5 mg, 0.77 mmol, 0.4 eq.) and CuI (147 mg, 0.77 mmol, 0.4 eq.) in dioxane (10 ml) was heated to reflux overnight while stirring under inert nitrogen atmosphere. The reaction mixture was filtered over Celite on a glass filter. The residual solids were washed with dioxane (15 ml). The combined filtrates were concentrated under vacuum to give the title compound as an oil, 0.9 g in quantitative yield. The purity according to LC-MS was 72%. The product was used without further purification. MS: M+1=437, 439 found. 1H-NMR (CDCl3) δ (ppm) 3.01-3.20 4H, m; 3.65 2H, m; 4.61 1H, m; 6.93-7.55 17H, m, ArH.

reactant | trans-2-(1-benzhydryl-4-(2-bromophenyl)pyrrolidin-3-yl)-4-chlorophenol | 1.93 mmol, 1.0 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C[C@H]([C@@H](C1)C1=C(C=CC=C1)Br)C1=C(C=CC(=C1)Cl)O | C29H25BrClNO
reactant | cesium carbonate | 3.85 mmol, 1.26 g, 2.0 eq. | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | N,N-dimethylglycine | 0.77 mmol, 79.5 mg, 0.4 eq. | CN(CC(=O)O)C | C4H9NO2
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
catalyst | CuI | 0.77 mmol, 147 mg, 0.4 eq. | [Cu]I
product | trans-5-chloro-2,3,3a,12b-tetrahydro-2-benzhydryl-1H-dibenz[2, 3:6,7]-oxepino[4,5-c]pyrrole | quantitative yield | ClC=1C=CC2=C([C@@H]3[C@H](CN(C3)C(C3=CC=CC=C3)C3=CC=CC=C3)C3=C(O2)C=CC=C3)C1 | C29H24ClNO
